US07179822B2
Synthesis of 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]thiadiazol-2-ylmethyl)-benzoic acid methyl ester
To a suspension of 0.25 g (0.51 mmol) 4-[2-(N′-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoyl}-hydrazino)-2-oxo-ethyl]-benzoic acid methyl ester from Preparation 8 in 10 mL dry dioxane was added P2S5 in one portion. The resulting mixture was warmed to 50° C. for 1 hour before cooling to room temperature and adding about 20 mL water. Stirred 2 hours and then filtered off solid product. Triturated in hot MeOH and filtered. Dissolved in THF and filtered through a plug of flash silica gel with THF eluent. Concentration gave 0.18 g (73%) desired product. Used directly in the procedure of Example B3 without characterization.

reactant | 4-[2-(N′-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoyl}-hydrazino)-2-oxo-ethyl]-benzoic acid methyl ester | 0.51 mmol, 0.25 g | COC(C1=CC=C(C=C1)CC(=O)NNC(C1=CC(=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC)=O)=O | C27H23N3O6
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | about 20 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(5-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-phenyl}-[1,3,4]thiadiazol-2-ylmethyl)-benzoic acid methyl ester | 0.18 g, 73% | COC(C1=CC=C(C=C1)CC=1SC(=NN1)C1=CC(=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC)=O | C27H21N3O4S
